US04772600
N-Methyl-2-(4-nitrophenyl)-3H-imidazo[4,5-b]pyridine-3-acetamide
A suspension of crude 2-(4-nitrophenyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid (3.0 g, 0.0101 mole), 1,1'-carbonyldiimidazole (1.63 g, 0.0101 mole) and dry tetrahydrofuran (100 ml) was stirred at room temperature for three hours with a stream of nitrogen bubbling through it and then refluxed overnight under nitrogen. It was cooled to room temperature and a solution of methylamine (0.94 g, 0.0302 mole) in tetrahydrofuran (10 ml) was added and the reaction mixture was stirred at room temperature over the weekend. The solvents were removed under reduced pressure and the resulting solid was triturated in water, collected by filtration, rinsed once with water, once with 5% potassium hydroxide solution and once with water. The solid was dissolved in hot isopropyl alcohol, filtered hot and cooled in the refrigerator to precipitate a solid. Water was added and the solid was collected by filtration and dried under high vacuum at 70° C. to give 0.42 g (13%) of title compound, mp. >260° C.

reactant | 2-(4-nitrophenyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid | 0.0101 mole, 3.0 g | [N+](=O)([O-])C1=CC=C(C=C1)C1=NC=2C(=NC=CC2)N1CC(=O)O | C14H10N4O4
reactant | 1,1'-carbonyldiimidazole | 0.0101 mole, 1.63 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | methylamine | 0.0302 mole, 0.94 g | CN | CH5N
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | N-Methyl-2-(4-nitrophenyl)-3H-imidazo[4,5-b]pyridine-3-acetamide | 0.42 g, 13% | CNC(CN1C(=NC=2C1=NC=CC2)C2=CC=C(C=C2)[N+](=O)[O-])=O | C15H13N5O3
